US06180665B2
(S)-N6-Benzyloxycarbonyl-N2-mesyllysine
(S)-N6-Benzyloxycarbonyllysine (1.5 kg) was slurried in methylene chloride (7.5 l) and chlorotrimethylsilane (1.36 l) added over 10 minutes. The mixture was heated under reflux for 30 minutes to give a solution which was cooled to 3° C. before simultaneously adding diisopropylethylamine (1.87 l) and methanesulphonyl chloride (435 ml) at such a rate as to keep the temperature below 25° C. The reaction was stirred for a further 2.5 hours then poured into 2 M aqueous hydrochloric acid solution. The layers were separated and the methylene chloride phase was washed with 2 M aqueous hydrochloric acid solution followed by water. The solvent was removed under reduced pressure and replaced with n-butyl acetate. The solution was cooled and the resulting crystalline material was collected by filtration, washed with n-butyl acetate and dried under reduced pressure to provide the title compound (1.63 kg), m.p. 83.5-84° C. [α]D25−13.4° (c=1, methanol). Found: C,50.23; H,6.40; N,7.76.

reactant | (S)-N6-Benzyloxycarbonyllysine | 1.5 kg | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)O | C14H20N2O4
reactant | chlorotrimethylsilane | 1.36 l | Cl[Si](C)(C)C | C3H9ClSi
reactant | diisopropylethylamine | 1.87 l | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 435 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | methylene chloride | 7.5 l | C(Cl)Cl | CH2Cl2
product | (S)-N6-Benzyloxycarbonyl-N2-mesyllysine | 1.63 kg | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](NS(=O)(=O)C)C(=O)O | C15H22N2O6S
